US04400505
Preparation of 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4,6-di-allylamino-1,3,5-triazine)
A stirred mixture of 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) (6.36 grams; 0.0161 mole), 2-chloro-4,6-bis(t-octylamino)-1,3,5-triazine (9.56 grams; 0.0322 mole), and powdered sodium hydroxide (1.29 grams; 0.0322 mole) in xylene (75 mls) is stirred and heated at reflux while removing water therein by means of a water trap. The reaction mixture is stirred and heated at reflux for 18 hours, cooled to 25° C., and treated with acetonitrile (200 mls). The reaction mixture is filtered to recover a precipitate, and the solid is washed successively with water and acetone, and dried to obtain 10.0 grams of product which melts at 208°-209° C. after recrystallization from xylene.

reactant | 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) | 0.0161 mole, 6.36 grams | N(CCCCCCNC1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C24H50N4
reactant | 2-chloro-4,6-bis(t-octylamino)-1,3,5-triazine | 0.0322 mole, 9.56 grams | ClC1=NC(=NC(=N1)NC(C)(C)CC(C)(C)C)NC(C)(C)CC(C)(C)C | C19H36ClN5
reactant | sodium hydroxide | 0.0322 mole, 1.29 grams | [OH-].[Na+]
solvent | xylene | 75 mls | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4,6-di-allylamino-1,3,5-triazine) | 10.0 grams | CC1(NC(CC(C1)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)NCC=C)NCC=C)C1=NC(=NC(=N1)NCC=C)NCC=C)(C)C)C | C42H72N14
